US05674856
(2a) 5'-Tritylamino-5'-deoxythymidine
557 mg of trityl chloride were added to a solution of 560 mg (2 mmol) of 3'-O-acetyl-5'-amino-5'-deoxythymidine [which had been prepared by the procedure reported by J. P. Horwitz et al. in J. Org. Chem., 27, 3045 (1962)] in 20 ml of dry pyridine, and the resulting mixture was heated under reflux for 1 hour whilst excluding moisture. After the disappearance of the starting compound had been ascertained by thin layer chromatography (using methylene chloride containing 5% by volume methanol as the developing solvent), the solvent was removed from the reaction mixture by distillation under reduced pressure. The resulting residue was mixed with 10 ml each of methanol and water, and then the mixture was concentrated by distillation under reduced pressure. This operation was repeated three times, after which the residue was dissolved in 30 ml of ethyl acetate, and the resulting solution was washed with 20 ml each of a saturated aqueous solution of sodium chloride, 0.2N aqueous hydrochloric acid and a 5% aqueous solution of sodium hydrogencarbonate. The organic solution was then dried over anhydrous magnesium sulfate, and the solution was then evaporated to dryness under reduced pressure. The residue was dissolved in 30 ml of methanol saturated with ammonia gas and the flask holding the solution was tightly closed. It was then allowed to stand overnight at room temperature. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure, and the residue was dissolved in 10 ml of methylene chloride. The solution was purified by column chromatography through silica gel, using methylene chloride containing 5% by volume of methanol as the eluent. Fractions containing the desired compound were combined and evaporated to dryness under reduced pressure. By lyophilizing the residue from benzene, 338 mg of the title compound were obtained as a white powder.

reactant | trityl chloride | 557 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 3'-O-acetyl-5'-amino-5'-deoxythymidine | 2 mmol, 560 mg | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1CN)N1C(=O)NC(=O)C(C)=C1 | C12H17N3O5
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 5'-Tritylamino-5'-deoxythymidine | 338 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C29H29N3O4
